US07199139B2
Ethyl 3-[4-[2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionate
The target compound (1.45 g) was obtained as a white powder by carrying out the reaction and the post-treatment according to Reference example 2 using ethyl 2-(4-fluorophenoxy)-3-(4-hydroxyphenyl)propionate (1.8 g) obtained from Reference example 25(b), sodium hydride (55%, 271 mg), and 2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethyl methanesulfonate (2.14 g) obtained from Reference example 26(b).

reactant | ethyl 2-(4-fluorophenoxy)-3-(4-hydroxyphenyl)propionate | 1.8 g | FC1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)O)C=C1 | C17H17FO4
reactant | sodium hydride | 271 mg | [H-].[Na+]
reactant | 2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethyl methanesulfonate | 2.14 g | CS(=O)(=O)OCCON=C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C17H18FNO4S
product | Ethyl 3-[4-[2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-fluorophenoxy)propionate | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=NOCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)F | C33H31F2NO5
